US06613913B2
8-[4-(1H-Indol-3-yl)-3.6-dihydro-2H-pyridin-1-ylmethyl]-2-methyl-7,8-dihydro-1,6,9-trioxa-3-aza-cyclopenta[a]naphthalene
[(8R)-2-Methyl-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-yl]methyl 4-methylbenzenesulfonate (0.50 g, 1.31 mmole) and 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole (0.97 g, 4.92 mmole) were combined in 30 mL of DMSO under nitrogen. This solution was heated to 75-80° C. under nitrogen. After completion, the reaction was cooled to room temperature and partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The organic phase was washed with brine, dried over magnesium sulfate and concentrated in vacuum. The crude residue was column chromatographed on silica gel using 85% hexane/methylene chloride to remove impurities and methylene chloride to elute the product, the (S)-enantiomer of the title compound, which was a yellow solid (m.p. 196° C.) after evaporation of the solvent (0.21 g, 40%). MS (ESI) m/z 402(M+H)+.

reactant | [(8R)-2-Methyl-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-yl]methyl 4-methylbenzenesulfonate | 1.31 mmole, 0.50 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C=CC=3N=C(OC32)C)OC1 | C18H17NO6S
reactant | 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 4.92 mmole, 0.97 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
product | 8-[4-(1H-Indol-3-yl)-3.6-dihydro-2H-pyridin-1-ylmethyl]-2-methyl-7,8-dihydro-1,6,9-trioxa-3-aza-cyclopenta[a]naphthalene | N1C=C(C2=CC=CC=C12)C=1CCN(CC1)CC1COC2=CC=C3C(=C2O1)OC(=N3)C | C24H23N3O3
